US05432177
3-(4-[4-Hydroxymethylphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A solution of diisobutylaluminium hydride in toluene (1.5M, 9.4 ml, 14.1mmol) was added to a solution of 3-(4-[4-methoxycarbonylphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine (1.64 g, 4.68 mmol) in tetrahydrofuran (100 ml) and the resultant mixture stirred at room temperature for forty minutes. Methanol (3.3 ml) was added, followed by water (2.0ml) and 2M aqueous sodium hydroxide (2.0 ml). The precipitate formed was collected, the filtrate concentrated in vacuo and the solid residue was recrystallised from methanol to afford the title compound (1.12 g, 74%), m.p. 207°-209° C. (dec.); (Found: C, 69.48; H, 7.00; N, 16.61. C19H22N4O.0.3 MeOH requires C, 69.82; H, 7.04; N, 16.87%); δH (DMSO-d6) 2.52 (4H, m, 2×piperazinyl CH2), 3.08 (4H, m, 2×piperazinyl CH2), 3.68 (2H, CH2N), 4.36 (2H, d, J 5.6 Hz, CH2OH), 4.92 (1H, t, J 5.6 Hz, CH2OH), 6.85 (2H, d, J 8.7 Hz, ArH), 7.05 (1H, dd, J 7.9, 4.7 Hz, 5-H), 7.13 (2H, d, J 8.7 Hz, ArH), 7.37 (1H, d, J 2.2 Hz, 2-H), 8.05 (1H, br d, J 7.9 Hz, 4-H), 8.19 (1H, dd, J 4.7, 1.5 Hz, 6-H), and 11.47 (1H, br s, NH); m/z (CI+, NH3) 323 (M+1)+.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 14.1mmol, 1.5M, 9.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-(4-[4-methoxycarbonylphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 4.68 mmol, 1.64 g | COC(=O)C1=CC=C(C=C1)N1CCN(CC1)CC1=CNC2=NC=CC=C21 | C20H22N4O2
reactant | sodium hydroxide | 2M, 2.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 2.0ml | O | H2O
solvent | Methanol | 3.3 ml | CO | CH4O
product | 3-(4-[4-Hydroxymethylphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 1.12 g, 74% | OCC1=CC=C(C=C1)N1CCN(CC1)CC1=CNC2=NC=CC=C21 | C19H22N4O
